US06552017B1
To a solution of tert-butyl 6-[(ethoxycarbonyl)amino]-1,3,4,5-tetrahydro-2H-pyrido[4,3-b]indole-2-carboxylate (8.7 g, 24.3 mmol) in CH2Cl2 (40 mL) at rt was added TFA (20 mL) and stirred at rt for 3 hours before the solvent was removed by the nitrogen stream. The solution was diluted with water (30 mL) and extracted with CH2Cl2 (2×30 mL). The combined extracts were dried over magnesium sulfate, and concentrated to afford an crude residue that was re-dissolved in CH2Cl2 (40 mL) followed by saturated K2CO3 (30 mL), ethyl chloroformate (2.4 mL, 4.0 mmol) and stirred at 25° C. for 0.5 hour. The solution was diluted with water (30 mL) and extracted with CH2Cl2 (2×30 mL). The combined extracts were dried over magnesium sulfate, concentrated, and purified by flash chromatography to afford ethyl 6-[(ethoxycarbonyl)amino]-1,3,4,5-tetrahydro-2H-pyrido[4,3-b]indole-2-carboxylate (4.5 g, 67%) as a clear oil. MS [M+H]+332. 1H NMR (CDCl3, 300 MHz): δ 7.00 (t, 1H, J=7.7 Hz), 6.82 (m, 1H), 6.71 (m, 1H), 4.62 (s, 2H), 4.02-4.31 (m, 4H), 3.82 (t, 1H, J=5.5 Hz), 2.82 (t, 1H, J=5.5 Hz), 1.20-1.24 (m, 6H) ppm.

reactant | tert-butyl 6-[(ethoxycarbonyl)amino]-1,3,4,5-tetrahydro-2H-pyrido[4,3-b]indole-2-carboxylate | 24.3 mmol, 8.7 g | C(C)OC(=O)NC1=CC=CC=2C3=C(NC12)CCN(C3)C(=O)OC(C)(C)C | C19H25N3O4
reactant | TFA | 20 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | K2CO3 | 30 mL | C(=O)([O-])[O-].[K+].[K+]
reactant | ethyl chloroformate | 4.0 mmol, 2.4 mL | ClC(=O)OCC | C3H5ClO2
solvent | CH2Cl2 | 40 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 40 mL | C(Cl)Cl | CH2Cl2
solvent | water | 30 mL | O | H2O
product | ethyl 6-[(ethoxycarbonyl)amino]-1,3,4,5-tetrahydro-2H-pyrido[4,3-b]indole-2-carboxylate | 4.5 g, 67% | C(C)OC(=O)NC1=CC=CC=2C3=C(NC12)CCN(C3)C(=O)OCC | C17H21N3O4
